US07750003B2
4-[4-(Methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidin-2-yl]aniline
2-Chloro-4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidine (5 g, 17.1 mmol), was dissolved in a mixture of DMF:DME:water:ethanol (16.5 mL:41 mL:18 mL:12 mL). 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (5.62 g, 25.6 mmol), a 2M aqueous solution of sodium carbonate (25 mL), and dichlorobis(triphenylphosphine) palladium (600 mg) were added and the mixture refluxed for 5 hours under a nitrogen atmosphere. The mixture was cooled, diluted with water and extracted into DCM. The organic layer was dried over Na2SO4, filtered and evaporated. The crude material was dissolved in minimum of hot DCM then hexane added and the precipitate filtered to give the desired material (1.6 g).

reactant | 2-Chloro-4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidine | 17.1 mmol, 5 g | ClC1=NC(=CC(=N1)CS(=O)(=O)C)N1CCOCC1 | C10H14ClN3O3S
reactant | DME | COCCOC | C4H10O2
reactant | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 25.6 mmol, 5.62 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 25 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethanol | 16.5 mL | C(C)O | C2H6O
product | 4-[4-(Methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidin-2-yl]aniline | 1.6 g | CS(=O)(=O)CC1=NC(=NC(=C1)N1CCOCC1)C1=CC=C(N)C=C1 | C16H20N4O3S
